US05591853
Production of 2-chloropyrimidine-4-carboxylic Acid Methyl Ester
A solution of 0.5 g (2.82 mmol) of 2-chloropyrimidine-4-carboxylic acid chloride in 10 ml of methanol was stirred for 45 minutes at room temperature. Then the reaction solution was poured on 80 ml of saturated NaHCO3 solution and extracted three times with 50 ml of ethyl acetate each. The combined organic phase was washed with 60 ml of saturated NaCl solution, dried on Na2SO4 and concentrated by evaporation on a rotary evaporator. After drying on a high vacuum, 0.50 g of product was obtained as white solid, corresponding to a yield of 100 percent relative to the 2-chloropyrimidine-4-caboxylic acid chloride used. The melting point of the product was 93.6° to 96.6° C. Other data for the product was:

reactant | 2-chloropyrimidine-4-carboxylic acid chloride | 2.82 mmol, 0.5 g | ClC1=NC=CC(=N1)C(=O)Cl | C5H2Cl2N2O
reactant | NaHCO3 | 80 ml | C(=O)(O)[O-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 2-chloropyrimidine-4-carboxylic Acid Methyl Ester | 0.50 g, yield of 100 percent | COC(=O)C1=NC(=NC=C1)Cl | C6H5ClN2O2
